US07470680B2
3-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one hydrochloride.
tert-Butyl 4-(2-oxo-3-phenyl-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate (290 mg, 844 μmol) was dissolved in ethyl acetate (3.0 mL). 4M Hydrogen chloride in 1,4-dioxane (3.0 mL, 12 mmol) was added to the mixture. Reaction was allowed to stir at room temperature for 18 hours. Material was concentrated by roto-vap. Residue was triturated in diethyl ether. Solids were filtered and washed with diethyl ether. Air was pulled through the filter cake to dry. Title compound was obtained as tan solid in 91% yield. MS (M+H)+=244.1.

reactant | tert-Butyl 4-(2-oxo-3-phenyl-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 844 μmol, 290 mg | O=C1N(C=CN1C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O3
reactant | Hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 12 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
product | 3-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one hydrochloride | 91% yield | Cl.C1(=CC=CC=C1)N1C(N(C=C1)C1CCNCC1)=O | InChI=1S/C14H17N3O.ClH/c18-14-16(12-4-2-1-3-5-12)10-11-17(14)13-6-8-15-9-7-13;/h1-5,10-11,13,15H,6-9H2;1H
